US07888364B2
3-bromo-4-chloro-N-(3,5-dimethoxyphenyl)benzamide was dissolved in 0.5 M 2-pyridylzincbromide (2.5 mL) and treated with Pd(PPh)3)4 (20 mg, 0.02 mmol). The reaction mixture was heated to 155° C. in a sealed tube for 20 min. in a microwave reactor. The resultant solution was diluted with Ethyl acetate and washed with 0.1 N sodium hydroxide and then brine. The organic layer was dried (MgSO4) and concentrated, and the crude residue was partially purified by silica gel chromatography. Pure 4-chloro-N-(3,5-dimethoxyphenyl)-3-(pyridin-2-yl)benzamide was obtained by a second purification on reverse phase HPLC. MS (Q1) 369.1 (M)+.

reactant | 3-bromo-4-chloro-N-(3,5-dimethoxyphenyl)benzamide | BrC=1C=C(C(=O)NC2=CC(=CC(=C2)OC)OC)C=CC1Cl | C15H13BrClNO3
reactant | 2-pyridylzincbromide | 0.5 M, 2.5 mL | [Br-].N1=C(C=CC=C1)[Zn+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-N-(3,5-dimethoxyphenyl)-3-(pyridin-2-yl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)OC)OC)C=C1)C1=NC=CC=C1 | C20H17ClN2O3
